### PR TITLE
RFC 53 Lean model and proofs

### PR DESCRIPTION
**Pull request by shaobo-he-aws**
*Issue #, if available:*

*Description of changes:*

### CODE REVIEW

File: cedar-lean/Cedar/Validation/Types.lean [hunk 1]
```diff
@@ -61,21 +61,62 @@ abbrev QualifiedType := Qualified CedarType
...
 
-structure EntitySchemaEntry where
+structure StandardSchemaEntry where
   ancestors : Cedar.Data.Set EntityType
   attrs : RecordType
   tags : Option CedarType
 
+inductive EntitySchemaEntry where
+  | standard (ty: StandardSchemaEntry)
+  | enum (eids: List String)
```
Comment (emina) [inline cedar-lean/Cedar/Validation/Types.lean:71]: Let's change this to `enum (eids : Set String)`.  This is more accurate since the enum IDs form a set (e.g., no duplicates are allowed).

File: cedar-lean/Cedar/Validation/Types.lean [hunk 2]
```diff
@@ -61,21 +61,62 @@ abbrev QualifiedType := Qualified CedarType
...
+
+def EntitySchemaEntry.validEid? (entry: EntitySchemaEntry) (eid: String): Bool :=
```
Comment (emina) [inline cedar-lean/Cedar/Validation/Types.lean:73]: Note that Lean uses `?` for functions that return `Option`.  

Let's rename this to `EntitySchemaEntry.isValidEntityUID` for consistency.

File: cedar-lean/Cedar/Validation/Types.lean [hunk 3]
```diff
@@ -61,21 +61,62 @@ abbrev QualifiedType := Qualified CedarType
...
+  match entry with
+  | .standard _ => true
+  | .enum eids => eids.contains eid
+
+def EntitySchemaEntry.tags (entry: EntitySchemaEntry): Option CedarType :=
```
Comment (emina) [inline cedar-lean/Cedar/Validation/Types.lean:78]:
```suggestion
def EntitySchemaEntry.tags : EntitySchemaEntry → Option CedarType  
  | .standard ty => ty.tags
  | .enum _ => none
```

File: cedar-lean/Cedar/Validation/Types.lean [hunk 4]
```diff
@@ -61,21 +61,62 @@ abbrev QualifiedType := Qualified CedarType
...
+  match entry with
+  | .standard ty => ty.tags
+  | .enum _ => none
+
+def EntitySchemaEntry.attrs (entry: EntitySchemaEntry): RecordType :=
```
Comment (emina) [inline cedar-lean/Cedar/Validation/Types.lean:83]: Same suggestion as for `EntitySchemaEntry.tags` for shorter code without an explicit `match`.

File: cedar-lean/Cedar/Validation/Types.lean [hunk 5]
```diff
@@ -61,21 +61,62 @@ abbrev QualifiedType := Qualified CedarType
...
+  match entry with
+  | .standard ty => ty.attrs
+  | .enum _ => Map.empty
+
+def EntitySchemaEntry.ancestors (entry: EntitySchemaEntry): Set EntityType :=
```
Comment (emina) [inline cedar-lean/Cedar/Validation/Types.lean:88]: Same suggestion as for `EntitySchemaEntry.tags` for shorter code without an explicit `match`.

File: cedar-lean/Cedar/Validation/Types.lean [hunk 6]
```diff
@@ -61,21 +61,62 @@ abbrev QualifiedType := Qualified CedarType
...
+  match entry with
+  | .standard ty => ty.ancestors
+  | .enum _ => Set.empty
+
 abbrev EntitySchema := Map EntityType EntitySchemaEntry
 
+def EntitySchema.getEIDRange (ets: EntitySchema) (et: EntityType) : Option (List String) :=
```
Comment (emina) [inline cedar-lean/Cedar/Validation/Types.lean:95]: What is this used for?  

Let's change the name to reflect the fact that the set of enums is a set (not a list / range).

File: cedar-lean/Cedar/Validation/Types.lean [hunk 7]
```diff
@@ -61,21 +61,62 @@ abbrev QualifiedType := Qualified CedarType
...
+  match ets.find? et with
+  | .some (.enum eids) => .some eids
+  | .some (.standard _) | .none => .none
```
Comment (emina) [inline cedar-lean/Cedar/Validation/Types.lean:98]: The last case of the `match` can be simply `_ => .none`.

File: cedar-lean/Cedar/Validation/Types.lean [hunk 8]
```diff
@@ -61,21 +61,62 @@ abbrev QualifiedType := Qualified CedarType
...
+  | .some (.enum eids) => eids.contains uid.eid
+  | .some (.standard _) => true
+  | .none   => false
+
 def EntitySchema.contains (ets : EntitySchema) (ety : EntityType) : Bool :=
   (ets.find? ety).isSome
 
 def EntitySchema.attrs? (ets : EntitySchema) (ety : EntityType) : Option RecordType :=
-  (ets.find? ety).map EntitySchemaEntry.attrs
+  (ets.find? ety).map λ e =>
```
Comment (emina) [inline cedar-lean/Cedar/Validation/Types.lean:110]: Why an explicit lambda here instead of `(ets.find? ety).map EntitySchemaEntry.attrs`? 

It looks like code should still work here.

File: cedar-lean/Cedar/Validation/Types.lean [hunk 9]
```diff
@@ -61,21 +61,62 @@ abbrev QualifiedType := Qualified CedarType
...
+  match e with
+  | .standard ty => ty.attrs
+  | .enum _ => Map.empty
 
 def EntitySchema.tags? (ets : EntitySchema) (ety : EntityType) : Option (Option CedarType) :=
```
Comment (emina) [inline cedar-lean/Cedar/Validation/Types.lean:115]: Same comment as for `EntitySchema.attrs?`

File: cedar-lean/Cedar/Validation/Types.lean (hunk 8 above)
Comment (emina) [reply cedar-lean/Cedar/Validation/Types.lean:110]: If the old code doesn't work, I'd suggest avoiding the lambda in favor of an explicit match:

```
match ets.find? ety with
  | .standard ty => ty.attrs
  | .enum _ => Map.empty
```

File: cedar-lean/CedarProto/ValidationRequest.lean [hunk 10]
```diff
@@ -28,10 +28,21 @@ namespace Cedar.Validation.Proto
 
 deriving instance DecidableEq for ActionSchemaEntry
 deriving instance DecidableEq for ActionSchema
-deriving instance DecidableEq for EntitySchemaEntry
 deriving instance DecidableEq for EntitySchema
 deriving instance DecidableEq for Schema
 
+deriving instance Repr for StandardSchemaEntry
+
+instance : Repr EntitySchemaEntry where
```
Comment (emina) [inline cedar-lean/CedarProto/ValidationRequest.lean:36]: Do we need to give an implementation of `Repr` here?  We usually leave these as default Lean implementations.

**Review by emina — CHANGES_REQUESTED** [review]
Nice PR!  I like this approach.  

Left small comments / suggestions on the model.

File: cedar-lean/CedarProto/ValidationRequest.lean (hunk 10 above)
Comment (shaobo-he-aws) [reply cedar-lean/CedarProto/ValidationRequest.lean:36]: `CedarProto` requires `Schema` to implement `Repr`, which transitively does the same for `EntitySchemaEntry`.

File: cedar-lean/Cedar/Validation/Types.lean (hunk 6 above)
Comment (shaobo-he-aws) [reply cedar-lean/Cedar/Validation/Types.lean]: It's used by `instanceOfEntityType` to determine if an `EntityUID` is valid.

File: cedar-lean/Cedar/Validation/Types.lean [hunk 11]
```diff
@@ -68,34 +68,32 @@ structure StandardSchemaEntry where
...
-  match entry with
+def EntitySchemaEntry.ancestors : EntitySchemaEntry → Set EntityType
   | .standard ty => ty.ancestors
   | .enum _ => Set.empty
 
 abbrev EntitySchema := Map EntityType EntitySchemaEntry
 
-def EntitySchema.getEIDRange (ets: EntitySchema) (et: EntityType) : Option (List String) :=
+-- Get the possible range of EIDs specified by an enumerated entity type
+def EntitySchema.getEIDRange (ets: EntitySchema) (et: EntityType) : Option (Set String) :=
```
Comment (emina) [inline cedar-lean/Cedar/Validation/Types.lean:93]: Can we rename this to `EntitySchema.entityTypeMembers`?  

The members of an entity type don’t form a range in the sense that we don’t have an ordering on them that’s exposed in the Cedar semantics.

**Review by emina — CHANGES_REQUESTED** [review]

File: cedar-lean/CedarProto/ValidationRequest.lean (hunk 10 above)
Comment (emina) [reply cedar-lean/CedarProto/ValidationRequest.lean:36]: Why do we need a custom implementation of `Repr` though?  Note that we use the default Lean implementations for other `Repr` instances:  e.g., https://github.com/cedar-policy/cedar-spec/blob/2481def3f4ba8d5700364ccaa12d7746933d29c9/cedar-lean/Cedar/Spec/Value.lean#L146

Comment (shaobo-he-aws) [reply cedar-lean/CedarProto/ValidationRequest.lean]: `deriving` `Repr` works.

File: cedar-lean/Cedar/Validation/Types.lean (hunk 11 above)
Comment (shaobo-he-aws) [reply cedar-lean/Cedar/Validation/Types.lean]: Done.

**Comment by emina** [comment]
Thinking about this more, I think we need to change the definition of [`InstanceOfEntityType`](https://github.com/cedar-policy/cedar-spec/blob/2481def3f4ba8d5700364ccaa12d7746933d29c9/cedar-lean/Cedar/Thm/Validation/Typechecker/Types.lean#L41) and fix the upstream definitions and proofs accordingly.  

In particular, the definition should be this:

```
def InstanceOfEntityType (e : EntityUID) (ety: EntityType) (ets : EntitySchema) : Prop :=
  ety = e.ty && 
  sch.isValidEntityUID ety 
```

Without this change, `InstanceOfType` admits invalid enum literals. And this means that our [type soundness theorem](https://github.com/cedar-policy/cedar-spec/blob/2481def3f4ba8d5700364ccaa12d7746933d29c9/cedar-lean/Cedar/Thm/Validation/Typechecker.lean#L46) becomes too weak.  It says that the evaluator may produce invalid entity literals even for type-correct expressions.  The type checker code actually prevents this, but it also needs to be reflected in the definition of `InstanceOfType` and the soundness theorem.

Note that we have already made the corresponding change in `RequestEntityValidator` and `instanceOfEntityType`.

**Comment by emina** [comment]
Actually, I now realize that the definition of `InstanceOfEntityType` has always been too weak (!). 

Note that it admits entity literals of arbitrary entity types that aren’t declared in the schema. 

The actual type checking algorithm doesn’t admit this. 

So, even before the addition of entity enums, this definition should have taken the environment  as input and looked like this instead:

```
def InstanceOfEntityType (e : EntityUID) (ety: EntityType) (env : Environment) : Prop :=
  env.ets.contains uid.ty  ∨ env.acts.contains uid
```

**Comment by shaobo-he-aws** [comment]
> Actually, I now realize that the definition of `InstanceOfEntityType` has always been too weak (!).
> 
> Note that it admits entity literals of arbitrary entity types that aren’t declared in the schema.
> 
> The actual type checking algorithm doesn’t admit this.
> 
> So, even before the addition of entity enums, this definition should have taken the environment as input and looked like this instead:
> 
> ```
> def InstanceOfEntityType (e : EntityUID) (ety: EntityType) (env : Environment) : Prop :=
>   e.ty = ety && (env.ets.contains e.ty  ∨ env.acts.contains e)
> ```

To make the scope of this PR limited to RFC 53, I propose that we fix the definition first in a separate PR and rebase this PR based on it. I'll work on the fix first.

**Comment by emina** [comment]
> In fact, `env.ets.isValidEntityUID e.ty` implies `env.ets.contains e.ty` so we might as well fix the definition in this PR.

I'll approve this PR as-is, in case you find it's easier to fix this in a separate PR.

**Review by emina — APPROVED** [review]

File: cedar-lean/Cedar/Thm/Validation/Typechecker/BinaryApp.lean [hunk 12]
```diff
@@ -903,7 +903,10 @@ private theorem no_tags_type_implies_no_tags {uid : EntityUID} {env : Environmen
     replace ⟨e', h₂, h₃⟩ := h₂
     simp only [hf', Option.some.injEq] at h₂
     subst h₂
-    simp only [h₃] at h₁
+    simp only [EntitySchemaEntry.tags?] at h₁ h₃
+    split at h₃
+    · simp only [h₃] at h₁
+      simp only [h₁, map_empty_contains_instance_of_ff]
     simp only [h₁, map_empty_contains_instance_of_ff]
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Validation/Typechecker/BinaryApp.lean:910]: For readability, I think line 910 should also be indented with a `·`?

File: cedar-lean/Cedar/Validation/RequestEntityValidator.lean [hunk 13]
```diff
@@ -158,7 +164,7 @@ def updateSchema (schema : Schema) (actionSchemaEntities : Entities) : Schema :=
       let entriesWithType := actionSchemaEntities.filter (λ k _ => k.ty == ty)
       let allAncestorsForType := List.flatten (entriesWithType.values.map (λ edt =>
         edt.ancestors.elts.map (·.ty) ))
-      let ese : EntitySchemaEntry := {
+      let ese : EntitySchemaEntry := .standard {
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Validation/RequestEntityValidator.lean:167]: maybe for a future PR -- should action entities be modeled as enumerated entities instead of standard?

File: cedar-lean/Cedar/Validation/Typechecker.lean [hunk 14]
```diff
@@ -359,6 +359,6 @@ def typeOf (x : Expr) (c : Capabilities) (env : Environment) : ResultType :=
 ---- Derivations -----
 
 deriving instance Repr for RequestType
-deriving instance Repr for Environment
+--deriving instance Repr for Environment
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Validation/Typechecker.lean:362]: instead of commenting this out, should we just remove it?

File: cedar-lean/Cedar/Validation/Types.lean [hunk 15]
```diff
@@ -61,21 +61,53 @@ abbrev QualifiedType := Qualified CedarType
...
+def EntitySchema.entityTypeMembers? (ets: EntitySchema) (et: EntityType) : Option (Set String) :=
+  match ets.find? et with
+  | .some (.enum eids) => .some eids
+  | _ => .none
+
+def EntitySchema.isValidEntityUID (ets : EntitySchema) (uid : EntityUID) : Bool :=
+  match ets.find? uid.ty with
+  | .some (.enum eids) => eids.contains uid.eid
+  | .some (.standard _) => true
+  | .none   => false
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Validation/Types.lean:101]: this duplicates logic from `EntitySchemaEntry.isValidEntityUID`.  Can we refactor this to call `EntitySchemaEntry.isValidEntityUID`?  That way if updates are needed in the future, they're needed in only one place

File: cedar-lean/Cedar/Validation/Types.lean [hunk 16]
```diff
@@ -124,8 +156,8 @@ deriving instance Repr, DecidableEq, Inhabited for ExtType
 deriving instance Repr, DecidableEq, Inhabited for Qualified
 deriving instance Repr, Inhabited for CedarType
 deriving instance Repr for ActionSchemaEntry
-deriving instance Repr for EntitySchemaEntry
-deriving instance Repr for Schema
+-- deriving instance Repr for EntitySchemaEntry
+--deriving instance Repr for Schema
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Validation/Types.lean:160]: instead of commenting these out, should we just remove them?

**Review by cdisselkoen — COMMENTED** [review]
Looks good, just some small nits

File: cedar-lean/Cedar/Validation/RequestEntityValidator.lean (hunk 13 above)
Comment (shaobo-he-aws) [reply cedar-lean/Cedar/Validation/RequestEntityValidator.lean:167]: Not yet. Enumerated entity types currently cannot form hierarchies, which actions can.

Comment (cdisselkoen) [reply cedar-lean/Cedar/Validation/RequestEntityValidator.lean:167]: Got it.

File: cedar-lean/Cedar/Validation/Types.lean (hunk 15 above)
Comment (shaobo-he-aws) [reply cedar-lean/Cedar/Validation/Types.lean:101]: Good catch. Done.

**Review by cdisselkoen — APPROVED** [review]

**Comment by shaobo-he-aws** [comment]
Will merge this PR first and then address the weakness of `IsInstanceOfEntityType` later in a separate PR.
